US08017611B2
[C2] A solution of di-tert-butyl azodicarboxylate (241 mg) in dichloromethane (1 ml), was added dropwise to a stirred suspension of 4-(6-amino-5-(oxazolo[4,5-b]pyridin-2-yl)pyridin-3-yl)-2-methoxyphenol (130 mg), 2-morpholinoethanol (0.054 ml) and triphenylphosphine polymer bound (350 mg, 1.05 mmol) dissolved in dichloromethane (3 ml). The resulting suspension was stirred at room temperature for 2 hours. The mixture was filtered, washed with dichloromethane (1 ml) and methanol (1 ml). The solvent was evaporated. The resulting residue was diluted with 1 ml of dichloromethane and 1 ml of TFA; the mixture was stirred overnight and concentrated. The reaction mixture was purified by preparative HPLC using a Waters X-Bridge reverse-phase column (C-18, 5 microns silica, 19 mm diameter, 100 mm length, flow rate of 40 ml/minute) and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent. The fractions containing the desired compound were evaporated to dryness to afford 5-[3-methoxy-4-(2-morpholinoethoxy)phenyl]-3-oxazolo[4,5-b]pyridin-2-yl-pyridin-2-amine (70 mg) as a solid. The 4-(6-amino-5-oxazolo[4,5-b]pyridin-2-yl-3-pyridyl)-2-methoxy-phenol used as starting material was made as follows:

reactant | di-tert-butyl azodicarboxylate | 241 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | 4-(6-amino-5-(oxazolo[4,5-b]pyridin-2-yl)pyridin-3-yl)-2-methoxyphenol | 130 mg | NC1=C(C=C(C=N1)C1=CC(=C(C=C1)O)OC)C=1OC=2C(=NC=CC2)N1 | C18H14N4O3
reactant | 2-morpholinoethanol | 0.054 ml | O1CCN(CC1)CCO | C6H13NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 5-[3-methoxy-4-(2-morpholinoethoxy)phenyl]-3-oxazolo[4,5-b]pyridin-2-yl-pyridin-2-amine | 70 mg | COC=1C=C(C=CC1OCCN1CCOCC1)C=1C=C(C(=NC1)N)C=1OC=2C(=NC=CC2)N1 | C24H25N5O4
